US05220042
3.0 Grams of 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene was dissolved in 500 ml of anhydrous tetrahydrofuran, this solution was cooled to -78° C. on a dry ice-acetone bath under an atmosphere of argon gas. To this solution was added dropwise 10.7 ml of secbutyllithium (1.3M cyclohexane solution), and stirred for 30 minutes. Then 3.54 g of 1-bromo-4-nonyne was added dropwise thereto, further 2.1 g of sodium iodide and 60 ml of hexamethylphosphoric triamide were added to the reaction mixture and stirred for 12 hours at room temperature. Tetrahydrofuran was removed under reduced pressure, then to the residue obtained was added 300 ml of mixed solvent of benzene-diethyl ether (1:1). The organic layer was washed four times with 100 ml of water, and washed four times with 100 ml of a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate then the solvent was removed under reduced pressure. The residue obtained was treated by means of a silica gel column chromatography (diameter: 5.5 cm×length 15.5 cm, "Wakogel C-200", developing and eluting solvent: 20% ethyl acetate-n-hexane). There was obtained 1.4 g of 1,4-dimethoxy-2,5-bis(methoxymethoxy)-3-(4-nonynyl)benzene as in the form of colorless oily substance.

reactant | 1,4-dimethoxy-2,5-bis(methoxymethoxy)benzene | COC1=C(C=C(C(=C1)OCOC)OC)OCOC | C12H18O6
reactant | secbutyllithium | 1.3M, 10.7 ml | C(C)(CC)[Li]
reactant | 1-bromo-4-nonyne | 3.54 g | BrCCCC#CCCCC | C9H15Br
reactant | sodium iodide | 2.1 g | [I-].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | benzene diethyl ether | C1=CC=CC=C1.C(C)OCC
solvent | hexamethylphosphoric triamide | 60 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 1,4-dimethoxy-2,5-bis(methoxymethoxy)-3-(4-nonynyl)benzene | 1.4 g | COC1=C(C(=C(C(=C1)OCOC)OC)CCCC#CCCCC)OCOC | C21H32O6
